US06673799B1
2-Cyano-4-pyridylcarbamic acid t-butyl ester
While stirring at room temperature, 1.8 ml of triethylamine and 2.8 ml of DPPA were added in that order to 100 ml of t-butanol solution containing 1.5 g of 2-cyanoisonicotinic acid, and the mixture was heated under refulx for 4 hours and 25 minutes. The reaction mixture was cooled to room temperature, mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by a silica gel column chromatography, and 1.34 g of the title compound was obtained from ethyl acetate-hexane (1:2, v/v) eluate.

reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | DPPA | 2.8 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | t-butanol | 100 ml | C(C)(C)(C)O | C4H10O
reactant | 2-cyanoisonicotinic acid | 1.5 g | C(#N)C=1C=C(C(=O)O)C=CN1 | C7H4N2O2
solvent | water | O | H2O
product | 2-Cyano-4-pyridylcarbamic acid t-butyl ester | 1.34 g | C(C)(C)(C)OC(NC1=CC(=NC=C1)C#N)=O | C11H13N3O2
